US07960377B2
Step 1: Preparation of methyl 1-benzyl-2-oxo-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate
Methyl 2 oxo-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate (50 mg, 240 μmol) was dissolved in DMF (0.5 mL) in a 2 mL microwave vial containing a magnetic stirrer bar. Potassium carbonate (100 mg, 720 μmol) was added to the vial followed by benzyl bromide (62 mg, 360 μmol) and tetrabutylammonium iodide (10 mg, 27 μmol). The vial was capped and was heated to 100° C. by microwave irradiation for 5 minutes. The reaction mixture was diluted with EtOAc (3 mL) and of saturated aqueous sodium bicarbonate (3 mL). The organic layer was removed and the aqueous layer was extracted with 2 mL of EtOAc. The organic layers were combined, dried over anhydrous Na2SO4 filtered and evaporated. This yielded 70 mg of a yellow oil which was used without further purification. LCMS (+ESI) m/z=299.1 [M+H]+.

reactant | Methyl 2 oxo-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate | 240 μmol, 50 mg | O=C1NC2=C(OC1)N=CC(=C2)C(=O)OC | C9H8N2O4
reactant | Potassium carbonate | 720 μmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 360 μmol, 62 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 27 μmol, 10 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
solvent | sodium bicarbonate | 3 mL | C([O-])(O)=O.[Na+]
product | methyl 1-benzyl-2-oxo-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate | C(C1=CC=CC=C1)N1C2=C(OCC1=O)N=CC(=C2)C(=O)OC | C16H14N2O4
